US07273882B2
Preparation AV. tert-butyl N-(3-(4-methoxyphenyl)-5-methylisoxazole-4-carbonyl)(methylthio)carbonoimidoylcarbamate
A mixture of tert-butyl methylthiocarbonoimidoylcarbamate (Preparation AU, 0.98 g, 5.16 mmol), 3-(4-methoxyphenyl)-5-methyl-4-isoxazolecarboxylic acid (Preparation Y, 1.17 g, 5 mmol), EDCI (1.2 g, 6.26 mmol) and DIPEA (1 g, 7.75 mmol) in DCM (30 mL) was stirred for 3 hours. The solvent was concentrated by rotovap and residue was purified by column with EtOAc/DCM (5/95) as the eluant. The product was obtained as a white solid (1.2 g, 60%). 1H NMR (CD3OD): δ 1.52 (s, 9H), 1.89 (s, 3H), 2.76 (s, 3H), 3.86 (s, 3H), 7.00, 7.02 (d, 2H), 7.47, 7.49 (d, 2H). MH+=406.19

reactant | tert-butyl methylthiocarbonoimidoylcarbamate | 5.16 mmol, 0.98 g | CSC(=N)NC(OC(C)(C)C)=O | C7H14N2O2S
reactant | 3-(4-methoxyphenyl)-5-methyl-4-isoxazolecarboxylic acid | 5 mmol, 1.17 g | COC1=CC=C(C=C1)C1=NOC(=C1C(=O)O)C | C12H11NO4
reactant | EDCI | 6.26 mmol, 1.2 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | DIPEA | 7.75 mmol, 1 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl N-(3-(4-methoxyphenyl)-5-methylisoxazole-4-carbonyl)(methylthio)carbonoimidoylcarbamate | 1.2 g, 60% | COC1=CC=C(C=C1)C1=NOC(=C1C(=O)N(C(OC(C)(C)C)=O)C(=N)SC)C | C19H23N3O5S
